US04623721
Compound 3 (3 g) dissolved in 60% acetic acid (30 ml) was heated at 40° C. for 3 hours. The mixture was made alkaline with 10N sodium hydroxide solution (40 ml), heated at 70° C. for 15 hours and then acidified with 18N sulfuric acid solution (30 ml). The salt was filtered off and the filtrate left at room temperature for 18 hours and 70° C. for 2 hours. The mixture was neutralized with 10N sodium hydroxide solution (3.5 ml). The salt was removed by ethanol precipitation. After filtration, the filtrate was concentrated, deionized with a column of Amberlite MG-1 ion-exchange resin, and eluted with water. The effluent was concentrated to give L-fructose as a syrup (1.21 g, 76%).

reactant | sodium hydroxide | 10N, 40 ml | [OH-].[Na+]
reactant | sulfuric acid | 18N, 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | L-fructose | 1.21 g, 76% | OCC(=O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H12O6
